US08609657B2
2-(Methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinamine
To 5-bromo-2-(methyloxy)-3-pyridinamine (18.93 g, 93 mmol, available from Asymchem International) in a 1 L round-bottom flask was added nitrogen-purged 1,4-dioxane (500 ml) followed by 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (47.4 g, 186 mmol), potassium acetate (27.5 g, 280 mmol) and dichloro{1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (7.61 g, 9.32 mmol). The mixture was then stirred at 80° C. under nitrogen for 2 h. The reaction mixture was allowed to cool then partitioned between ethyl acetate and water and filtered through a Celite pad. The aqueous layer was extracted further with ethyl acetate (2×) and the combined organics washed with water, brine and dried over magnesium sulphate overnight. The mixture was filtered and the filtrate concentrated in vacuo to give a dark brown solid. The residue was purified by silica gel chromatography, eluting in 0-50% ethyl acetate/dichloromethane. The appropriate fractions were combined and evaporated to dryness and the residue triturated with cyclohexane. The resultant solid was filtered off and dried in vacuo to give the title compound as a light pink solid (11.1 g).

reactant | 5-bromo-2-(methyloxy)-3-pyridinamine | 93 mmol, 18.93 g | BrC=1C=C(C(=NC1)OC)N | C6H7BrN2O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 186 mmol, 47.4 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 280 mmol, 27.5 g | C(C)(=O)[O-].[K+]
product | 2-(Methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinamine | 11.1 g | COC1=NC=C(C=C1N)B1OC(C(O1)(C)C)(C)C | C12H19BN2O3
